US04853384
A suspension of sodium hydride (60% in oil, 6.4 g) in 50 ml of dry dimethylformamide was treated with a solution of 2.5 g of 4-hydroxy-4-phenylpiperidine in 100 ml of dry dimethylformamide over a period of ten minutes. After heating at 50° C. for 30 minutes the mixture was cooled to 5° C. and a solution of 18.6 ml of hexafluorobenzene in 100 ml of dry dimethylformamide was added, dropwise, over a period of 30 minutes. The reaction mixture was then stirred at ambient temperature for 20 hours, poured into 500 ml of water, and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated to yield 21 g (44%) of 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine.

reactant | sodium hydride | 6.4 g | [H-].[Na+]
reactant | 4-hydroxy-4-phenylpiperidine | 2.5 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | hexafluorobenzene | 18.6 ml | FC1=C(C(=C(C(=C1F)F)F)F)F | C6F6
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(2,3,4,5,6-pentafluorophenoxy)-4-phenylpiperidine | 21 g, 44% | FC1=C(OC2(CCNCC2)C2=CC=CC=C2)C(=C(C(=C1F)F)F)F | C17H14F5NO
